US08283354B2
To a solution of 2-(4-chloro-7-methylquinazolin-2-yl)phenol (115 g, 4.26 mmol) in CH2Cl2 (25 mL) at 0° C. under inert atmosphere was slowly added a solution of benzyl(S)-piperidin-3-ylcarbamate (1.0 g, 4.26 mmol) and triethylamine (1.18 mL, 8.52 mmol) in CH2Cl2 (10 mL). The reaction was allowed to warm to room temperature and was then quenched with water. The mixture was extracted with CH2Cl2 and the organic layers were combined, dried over MgSO4, and concentrated to obtain benzyl(S)-1-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)piperidin-3-ylcarbamate (2.03 g). This material was used without further purification. LC/MS: m/z 469.1 (M+H)+ at 2.86 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA))

reactant | 2-(4-chloro-7-methylquinazolin-2-yl)phenol | 4.26 mmol, 115 g | ClC1=NC(=NC2=CC(=CC=C12)C)C1=C(C=CC=C1)O | C15H11ClN2O
reactant | benzyl(S)-piperidin-3-ylcarbamate | 4.26 mmol, 1.0 g | N1C[C@H](CCC1)NC(OCC1=CC=CC=C1)=O | C13H18N2O2
reactant | triethylamine | 8.52 mmol, 1.18 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | benzyl(S)-1-(2-(2-hydroxyphenyl)-7-methylquinazolin-4-yl)piperidin-3-ylcarbamate | 2.03 g | OC1=C(C=CC=C1)C1=NC2=CC(=CC=C2C(=N1)N1C[C@H](CCC1)NC(OCC1=CC=CC=C1)=O)C | C28H28N4O3
